US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-hydroxy-2-(4-methoxyphenyl)ethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-alanine
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.04 g, 0.072 mmol) and N-methylmorpholine (0.022 g, 0.217 mmol) were dissolved in CH2Cl2 (4 ml). tert-Butyl D-alaninate hydrochloride (0.016 g, 0.087 mmol) and TBTU (0.030 g, 0.094 mmol) were added. After 2 h, the reaction mixture was purified on silica gel and eluted with EtOAc/CH2Cl2 (25/75). Pure fractions were collected and concentrated. The residue was dissolved in CH2Cl2 (3 ml) and TFA (2 ml). The hydrolysis was completed after 2 h. The reaction mixture was concentrated and MeOH (3 ml) and NABH4 (0.011 g, 0.290 mmol) were added. The mixture was stirred for 5 minutes. The reaction was quenched by the addition of 0.1M NH4OAc buffer (2 ml) and the solvent evaporated. The residue was purified by preparative HPLC using an eluent of 0-50% CH3CN in 0.1M NH4OAc buffer. Freeze-drying of the pure fractions afforded the title compound (0.030 g, 66%) as a colourless solid. M/z: 624.2, (M−1). 1H NMR [(CD3)2SO), 400 MHz] δ 1.16 (d, 3H), 2.83-2.93 (m, 2H), 3.68-3.74 (m, 5H), 3.88-3.95 (m, 1H), 4.23-4.26 (m, 1H), 4.51 (s, 2H), 4.60-4.70 (m, 1H), 5.00-5.03 (m, 1H), 6.81-7.37 (m, 12H), 7.74-7.79 (m, 1H), 8.29-8.34 (m, 1H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.072 mmol, 0.04 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C28H25FN2O7S
reactant | N-methylmorpholine | 0.217 mmol, 0.022 g | CN1CCOCC1 | C5H11NO
reactant | tert-Butyl D-alaninate hydrochloride | 0.087 mmol, 0.016 g | Cl.N[C@H](C)C(=O)OC(C)(C)C
reactant | TBTU | 0.094 mmol, 0.030 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-hydroxy-2-(4-methoxyphenyl)ethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-alanine | 0.030 g, 66% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)OC)O)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C)C(=O)O)C=C1 | C31H32FN3O8S
